US07390808B2
Step A: 3-Oxo-5-phenyl-2,3-dihydro-pyridazine-4-carbonitrile
Phenyl glyoxal (1.0 g, 7.46 mmol) and cyanoacetohydrazide (740 mg, 7.46 mmol) were heated to reflux in 10 mL ethanol for 16 hours. After cooling, the solvent was evaporated and the crude brown mixture was purified by silica chromatography (1:9 methanol/dichloromethane). The still impure product was further recrystallized from methanol affording 70 mg pure product.

reactant | Phenyl glyoxal | 7.46 mmol, 1.0 g | C1(=CC=CC=C1)C(=O)C=O | C8H6O2
reactant | cyanoacetohydrazide | 7.46 mmol, 740 mg | C(#N)CC(=O)NN | C3H5N3O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-Oxo-5-phenyl-2,3-dihydro-pyridazine-4-carbonitrile | O=C1NN=CC(=C1C#N)C1=CC=CC=C1 | C11H7N3O
